* File: nor.pex.netlist.pex
* Created: Sun May  7 23:30:48 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%D 9 13 17
c0 15 0 0.0419225f
c1 13 0 0.162926f
c2 9 0 0.119536f
c3 5 0 0.114044f
c4 2 0 0.125978f
r5 11 15 8.79392
r6 11 13 67.5
r7 7 15 8.79392
r8 7 9 42
r9 5 17 0.0647872
r10 4 5 13.2552
r11 2 15 1.69929
r12 2 4 3.9569
.ends

.subckt PM_NOR%VDD 2 3 4 28
c0 32 0 0.00166449f
c1 21 0 0.440305f
c2 7 0 0.159288f
r3 26 28 0.0076087
r4 20 21 8.16635
r5 17 21 1.12304
r6 17 28 0.0730435
r7 16 17 16.3327
r8 11 32 0.0195555
r9 11 26 0.0195555
r10 10 11 16.3327
r11 7 32 0.520435
r12 6 7 8.16635
r13 4 6 2.295
r14 3 20 4.59574
r15 2 16 4.59574
r16 2 10 4.59574
.ends

.subckt PM_NOR%OUT_3 5 10 15 20
c0 23 0 0.146469f
c1 18 0 0.147315f
c2 13 0 0.148262f
c3 9 0 0.015214f
c4 3 0 0.030316f
c5 2 0 0.227018f
r6 22 23 16.3327
r7 20 22 4.59
r8 17 18 16.3327
r9 15 17 4.59
r10 12 13 8.16635
r11 10 12 2.295
r12 8 13 0.295217
r13 8 9 0.0296412
r14 7 23 0.404783
r15 7 9 0.0296412
r16 6 18 0.404783
r17 3 6 0.039111
r18 3 5 0.240435
r19 2 9 0.00770322
r20 2 5 0.623913
.ends

.subckt PM_NOR%C 4 8 19
c0 19 0 0.112812f
c1 15 0 0.0419225f
c2 12 0 0.127418f
c3 8 0 0.169636f
c4 4 0 0.119536f
r5 13 19 0.0275532
r6 12 13 13.2552
r7 10 15 1.69929
r8 10 12 4.11207
r9 6 15 8.79392
r10 6 8 67.5
r11 2 15 8.79392
r12 2 4 42
.ends

.subckt PM_NOR%PMOS3_D 6 11
c0 14 0 0.0999845f
c1 9 0 0.124502f
c2 3 0 0.0446239f
c3 2 0 0.475478f
r4 13 14 8.16635
r5 11 13 2.295
r6 8 9 8.16635
r7 6 8 2.295
r8 5 14 0.339348
r9 4 9 0.339348
r10 3 4 0.039111
r11 2 5 0.039111
r12 2 3 1.07435
.ends

.subckt PM_NOR%GND 2 23 28 43
c0 39 0 0.252745f
c1 36 0 0.0018845f
c2 33 0 0.0018845f
c3 31 0 0.145705f
c4 26 0 0.145705f
r5 39 43 0.0806522
r6 31 36 0.526522
r7 30 31 16.3327
r8 28 30 4.59
r9 26 33 0.526522
r10 25 26 16.3327
r11 23 25 4.59
r12 21 36 0.0195555
r13 21 39 0.0195555
r14 20 21 16.3327
r15 14 43 16.3327
r16 11 43 1.12304
r17 11 40 0.0806522
r18 10 11 16.3327
r19 5 33 0.0195555
r20 5 40 0.0195555
r21 4 5 16.3327
r22 2 20 4.59574
r23 2 14 4.59574
r24 2 10 4.59574
r25 2 4 4.59574
.ends

